US09290500B2
1-Naphthoylacetonitrile (161 mg, 0.825 mmol) and hydrazine (0.11 mL, 3.5 mmol) are heated in ethanol (1.1 mL) at 70° C. in a sealed vial for 60 hr. The reaction is cooled to room temperature and the solvent is removed. The crude material is taken up in 5 ml of ethyl acetate and washed with water and brine. The organic layer is concentrated in vacuo to give 3-(1-naphthyl)-1H-pyrazol-5-amine which is dissolved in acetic acid (0.375 mL, 6.60 mmol). Diethyl ethoxymethylenemalonate (0.182 mL, 0.907 mmol) is added and the mixture is heated at 120° C. for 3 hr in a sealed vial. During the reaction, a precipitate forms. The reaction is cooled to room temperature and the solid is collected in a Buchner funnel and washed with reagent grade alcohol to provide ethyl 2-(1-naphthyl)-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidine-6-carboxylate (166 mg, yield 60%). 1H NMR (300 MHz, DMSO) δ 8.73-8.66 (m, 1H), 8.64 (s, 1H), 8.02 (dd, J=8.9, 3.4 Hz, 2H), 7.87-7.78 (m, 1H), 7.68-7.52 (m, 3H), 6.71 (s, 1H), 4.25 (q, J=7.1 Hz, 2H), 1.30 (t, J=7.1 Hz, 3H).

reactant | 1-Naphthoylacetonitrile | 0.825 mmol, 161 mg | C1(=CC=CC2=CC=CC=C12)C(=O)CC#N | C13H9NO
reactant | hydrazine | 3.5 mmol, 0.11 mL | NN | H4N2
solvent | ethanol | 1.1 mL | C(C)O | C2H6O
product | 3-(1-naphthyl)-1H-pyrazol-5-amine | C1(=CC=CC2=CC=CC=C12)C1=NNC(=C1)N | C13H11N3
